US07790737B2
A solution of 3,5-bis(trifluoromethyl)acetophenone (2.00 g, 7.81 mmol) in methanol (20 mL) was added with sodium borohydride (591 mg, 15.6 mmol) with stirring on an ice bath, and the mixture was stirred at the same temperature for 30 minutes. The reaction mixture was added with 1 M hydrochloric acid (pH<7) on an ice bath, and then concentrated under reduced pressure, the resulting residue was added with water (20 mL), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure to obtain 1-[3,5-bis(trifluoromethyl)phenyl]ethanol (2.00 g, 99%) as colorless solid.

reactant | 3,5-bis(trifluoromethyl)acetophenone | 7.81 mmol, 2.00 g | CC(=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C10H6F6O
reactant | sodium borohydride | 15.6 mmol, 591 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1 M, pH<7 | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 1-[3,5-bis(trifluoromethyl)phenyl]ethanol | 2.00 g, 99% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C)O)(F)F | C10H8F6O
